US07074799B2
Heat a solution of 2-amino-4-(3-trifluoromethyl-pyridin-2-yl)-benzamide (100 mg, 0.356 mmol) in 2-chloro-1,1,1-trimethoxyethane (bp 138° C.) at 130° C. for 4 hours. Concentrate the mixture under reduced pressure to give 2-chloromethyl-7-(3-trifluoromethyl-pyridin-2-yl)-3H-quinazolin-4-one as an oil which crystallizes on standing.

reactant | 2-amino-4-(3-trifluoromethyl-pyridin-2-yl)-benzamide | 0.356 mmol, 100 mg | NC1=C(C(=O)N)C=CC(=C1)C1=NC=CC=C1C(F)(F)F | C13H10F3N3O
reactant | 2-chloro-1,1,1-trimethoxyethane | ClCC(OC)(OC)OC | C5H11ClO3
product | 2-chloromethyl-7-(3-trifluoromethyl-pyridin-2-yl)-3H-quinazolin-4-one | ClCC1=NC2=CC(=CC=C2C(N1)=O)C1=NC=CC=C1C(F)(F)F | C15H9ClF3N3O
